US06380387B1
To a suspension of 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester (0.125 mmol, 46 mg), HBTU (0.125 mmol, 47.5 mg) and 2-chloro-6-methylbenzoic acid (0.137 mmol, 25 mg) in DMF (2 mL) was added diisopropylethylamine (0.312 mmol, 44 uL) at room temperature. After 5 min, everything went into solution and the clear yellow solution was stirred for 72 h at room temperature. The resulting dark-brown solution was diluted with ethyl acetate (30 mL). The ethyl acetate layer was washed successively with 1N hydrochloric acid (2×30 mL), saturated sodium bicarbonate solution (30 mL), and brine solution (30 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave the crude product which was purified by silica gel chromatography using a Biotage (40s) column to afford 42 mg (70% yield) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester as a oily residue. ES-HRMS m/e calcd for C25H26ClN3O5 (M+Na) 506.1454, found 506.1459.

reactant | 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester | 0.125 mmol, 46 mg | COC([C@@H](N)CC1=CC(=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C)=O | C17H21N3O4
reactant | HBTU | 0.125 mmol, 47.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-chloro-6-methylbenzoic acid | 0.137 mmol, 25 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | diisopropylethylamine | 0.312 mmol, 44 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester | 42 mg, 70% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC(=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C)=O | C25H26ClN3O5
